US04125726
8-Chloro-6-(2-chlorophenyl)-1-methoxy-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamide
A mixture of 0.3 g (0.00074 mole) of 6-(2-chlorophenyl)-1,8-dichloro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamide, 1.15 g (0.0028 mole) of sodium methoxide and 15 ml of methanol was heated at 120°-125° in a steel bomb for 24 hrs. The solvent was evaporated in vacuo. The residue was dissolved in methylene chloride, washed with water, dried and evaporated at reduced pressure to give a tan, amorphous solid. After chromatography over silica gel using 5% (v/v) of ethanol in methylene chloride the solid was recrystallized from a solution of ethanol and methylene chloride to give off-white crystals with mp 235°-238° (dec). Uv λ max 216 l mμ (ε=41,000) sh 243 (22,600) max 264 (20,000); ir (KBr) 3445, 3330, 3280 cm-1 (NH2) 1675 (CON) nmr (d-DMSO) δ 4.0 ppm (d, 1) and 5.88 (d, 1) (AB-system, J=12 Hz, C4 -H) 4.06 (s, 3, OCH3) 6.9-7.9 (m, 9, aromatic H and NH2).

reactant | 6-(2-chlorophenyl)-1,8-dichloro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamide | 0.00074 mole, 0.3 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)Cl)C(=NC2C(=O)N)Cl | C18H11Cl3N4O
reactant | sodium methoxide | 0.0028 mole, 1.15 g | C[O-].[Na+]
reactant | KBr | [K+].[Br-]
solvent | methanol | 15 ml | CO | CH4O
product | 8-Chloro-6-(2-chlorophenyl)-1-methoxy-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamide | ClC=1C=CC2=C(C(=NCC=3N2C(=NC3C(=O)N)OC)C3=C(C=CC=C3)Cl)C1 | C19H14Cl2N4O2
